US06972340B2
benzyl 2-(acetylamino)acrylate
To a mixture of 2-acetamidoacrylic acid (10.3 g, 80.0 mmol) and K2CO3 (10 g, 72.5 mmol) in N,N-dimethylformamide (50 mL) was added benzyl bromide (8.7 ml, 72.5 mmol) at room temperature then stirred at room temperature for 3 hours. The mixture was partitioned between ethyl acetate and water (50 mL, 1:1), the aqueous layer was extracted with ethyl acetate (2×45 mL). The combined organic layers was washed with brine (2×25 mL), dried (MgSO4), filtered and concentrated under reduced pressure to provide titled compound. MS (ESI(+)) m/e 220(M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 9.37 (s, 1H), 7.43-7.30 (m, 5H), 6.13 (s, 1H), 5.70 (s, 1H), 5.23 (s, 2H), 2.01 (s, 3H).

reactant | 2-acetamidoacrylic acid | 80.0 mmol, 10.3 g | C(C)(=O)NC(C(=O)O)=C | C5H7NO3
reactant | K2CO3 | 72.5 mmol, 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 72.5 mmol, 8.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | benzyl 2-(acetylamino)acrylate | C(C)(=O)NC(C(=O)OCC1=CC=CC=C1)=C | C12H13NO3
